US05596002
(7-Chloro-quinolin-4-yl)-[2-(2,5-dimethyl-pyrrolidin-1-yl)-ethyl]-amine
0.35 g (isomer mixture cis:trans=15:1) from 1.3 g of N-(2-chloroethyl)-7-chloro-4-quinolinamine hydrochloride; yellowish crystals from acetone, m.p.: 127°-130° C.

reactant | N-(2-chloroethyl)-7-chloro-4-quinolinamine hydrochloride | 1.3 g | Cl.ClCCNC1=CC=NC2=CC(=CC=C12)Cl
reactant | acetone | CC(=O)C | C3H6O
product | (7-Chloro-quinolin-4-yl)-[2-(2,5-dimethyl-pyrrolidin-1-yl)-ethyl]-amine | ClC1=CC=C2C(=CC=NC2=C1)NCCN1C(CCC1C)C | C17H22ClN3
